US04258045
To a stirred suspension of 5.62 g (0.025 mole) of 3-(4'-acetamidophenylthio)propanol in 25 ml of methylene chloride and 2.03 ml of pyridine (0.025 mole) is added 3.7 g of thionyl chloride (0.031 mole) in 10 ml of methylene chloride. After the exothermic reaction subsides, the mixture is heated at reflux for 0.5 hr. The reaction mixture is poured into 100 ml of ice-water with stirring. The organic layer is separated, dried and concentrated to a dark red solid. Extraction of the latter with ether in a Soxlet apparatus yields 3.5 g of 3-(p-acetamidophenylthio)propyl chloride having the correct IR and NMR spectra.

reactant | 3-(4'-acetamidophenylthio)propanol | 0.025 mole, 5.62 g | C(C)(=O)NC1=CC=C(C=C1)SCCCO | C11H15NO2S
reactant | pyridine | 0.025 mole, 2.03 ml | N1=CC=CC=C1 | C5H5N
reactant | thionyl chloride | 0.031 mole, 3.7 g | S(=O)(Cl)Cl | Cl2OS
solvent | methylene chloride | 25 ml | C(Cl)Cl | CH2Cl2
solvent | methylene chloride | 10 ml | C(Cl)Cl | CH2Cl2
product | 3-(p-acetamidophenylthio)propyl chloride | 3.5 g | C(C)(=O)NC1=CC=C(C=C1)SCCCCl | C11H14ClNOS
